US04178291
N-[2-(Mercaptomethyl)-3-mercaptopropanoyl]-L-glutamine
By substituting L-glutamine for the L-proline in the procedure of Example 3B, and then submitting the product to the procedure of Example 4, N-[2-(acetylthiomethyl)-3-(acetylthio)propanoyl]-L-glutamine and 1-[2-(mercaptomethyl)-3-mercaptopropanoyl]-L-glutamine are obtained.

reactant | L-glutamine | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | N-[2-(acetylthiomethyl)-3-(acetylthio)propanoyl]-L-glutamine | C(C)(=O)SCC(C(=O)N[C@@H](CCC(N)=O)C(=O)O)CSC(C)=O | C13H20N2O6S2
product | N-[2-(Mercaptomethyl)-3-mercaptopropanoyl]-L-glutamine | SCC(C(=O)N[C@@H](CCC(N)=O)C(=O)O)CS | C9H16N2O4S2
